US07053089B2
{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-pyrimidin-2-yl-amine
A mixture of 0.3 g of C-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine, 0.3 g of 2-bromopyrimidine, 25 mL of 2-propanol and 0.3 mL of N,N-diisopropylethylamine was heated to reflux overnight. Purification of the residue obtained after concentration under reduced pressure by preparative chromatography, eluting with ethyl acetate gave a white solid.

reactant | C-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine | 0.3 g | FC1=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H21FN2O2S
reactant | 2-bromopyrimidine | 0.3 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | N,N-diisopropylethylamine | 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | {1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-pyrimidin-2-yl-amine | FC1=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=CC=N1 | C18H23FN4O2S
